US07557114B2
(a) (1S,4S)-5-(2-Oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A3(d) from 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (Example A38(b)) and (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate. Orange oil. MS (m/e): 317.3 ([M+H]+, 100%).

reactant | 5-iodo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)I | C13H16INO2
reactant | (1S,4S)-2-oxa-5-aza-bicyclo[2.2.1]heptane trifluoroacetate | FC(C(=O)O)(F)F.[C@@H]12OC[C@@H](NC1)C2
product | (1S,4S)-5-(2-Oxa-5-aza-bicyclo[2.2.1]hept-5-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1[C@@H]2CO[C@H](C1)C2 | C18H24N2O3
